US06316606B1
Five grams of resin (Mw of 50,000) synthesized from cellobiose and dimethyl adipate were poured into dioxane and then 3.7 g of dimethylaminopyridine and 3.0 g of adipic acid chloride were added dropwise thereto in a nitrogen atmosphere, followed by stirring for 20 hours at 50° C. A white powder, obtained from the resulting reaction mixture, was subjected to GPC. As a result, the molecular weight of the white powder was two to eight times larger than that of the resin measured before the reaction. The infrared absorption spectroscopy of the white powder revealed that the intensity of an absorption peak due to the C═O bond in the ester bond was higher than that shown in FIG. 8. Therefore, it was understood that esterification occurred in the saccharide portions in the resin of Example 1 and resulted in crosslinks by adipic acid.

reactant | cellobiose | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
reactant | dimethyl adipate | C(CCCCC(=O)OC)(=O)OC | C8H14O4
reactant | dimethylaminopyridine | 3.7 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | adipic acid chloride | 3.0 g | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
